US04257987
0.9 mole of methyl 1,2-dichloroethyl ether was added dropwise to 1 mole of triethyl phosphite at 120° C., under a N2 atmosphere. After a reaction time of 8 hours, the mixture was fractionated. 120 g of 1-methoxy-2-chloroethane-phosphonic acid diethyl ester were obtained.

reactant | methyl 1,2-dichloroethyl ether | 0.9 mole | ClC(CCl)OC | C3H6Cl2O
reactant | triethyl phosphite | 1 mole | P(OCC)(OCC)OCC | C6H15O3P
product | 1-methoxy-2-chloroethane-phosphonic acid diethyl ester | 120 g | C(C)OP(OCC)(=O)C(CCl)OC | C7H16ClO4P
